US06489344B1
A mixture of 4-{2-[(2-aminoethyl)amino]-5-imidazolylpyrimidin-4-yl}benzenecarbonitrile (30 mg, 0.098 mmol), chloro(4-nitrophenyl)sulfone (22 mg, 0.1 mmol), and Hünig's base (70 uL, 0.4 mmol) in DMA (500 uL) were heated to 80° C. After stirring for 12 hours, the reaction was diluted with ethyl acetate (10 ml) and extracted with sat. aq. NaHCO3 (2×5 ml), water (3×5 ml), brine (5 ml), dried with Na2SO4, filtered, and concentrated. The resulting product, 4-{5-imidazolyl-2-[(2-{[(4-nitrophenyl)sulfonyl]amino}ethyl)amino]pyrimidin-4-yl}benzenecarbonitrile weighing 27 mg (56% yield) was approximately 90% pure by LCMS and HPLC.

reactant | 4-{2-[(2-aminoethyl)amino]-5-imidazolylpyrimidin-4-yl}benzenecarbonitrile | 0.098 mmol, 30 mg | NCCNC1=NC=C(C(=N1)C1=CC=C(C=C1)C#N)C=1NC=CN1 | C16H15N7
reactant | chloro(4-nitrophenyl)sulfone | 0.1 mmol, 22 mg | ClC1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)C1=C(C=C(C=C1)[N+](=O)[O-])Cl | C12H6Cl2N2O6S
reactant | Hünig's base | 0.4 mmol, 70 uL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | 500 uL | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 4-{5-imidazolyl-2-[(2-{[(4-nitrophenyl)sulfonyl]amino}ethyl)amino]pyrimidin-4-yl}benzenecarbonitrile | 27 mg, 56% yield | N1C(=NC=C1)C=1C(=NC(=NC1)NCCNS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])C1=CC=C(C=C1)C#N | C22H18N8O4S
